US08426411B2
To a solution of 2-hydrazinyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine (0.233 g, 0.767 mmol, WO2009152133 Preparation #9) and 2-ethyl-4-(tetrahydro-2H-pyran-4-yloxy)cyclopentanecarboxylic acid (0.190 g, 0.767 mmol) in DCM (8.00 mL) was added HATU (0.350 g, 0.920 mmol, Novabiochem) and TEA (0.43 mL, 3.07 mmol). The resulting suspension was stirred at ambient temperature for about 4 h. The reaction was partitioned between DCM (50 mL) and water (25 mL) and the layers were separated. The organic layer was washed with water (2×25 mL) and brine (30 mL), dried over anhydrous MgSO4, filtered, and concd to give a brown residue. The crude material was purified by silica gel chromatography using a gradient of 1-10% MeOH in DCM to give 2-ethyl-4-(tetrahydro-2H-pyran-4-yloxy)-N′-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)cyclopentanecarbohydrazide (0.300 g, 74%); LC/MS (Table 1, Method b) Rt=2.20 min; MS m/z: 528 (M+H)+.

reactant | 2-hydrazinyl-5-tosyl-5H-pyrrolo[2,3-b]pyrazine | 0.767 mmol, 0.233 g | N(N)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C13H13N5O2S
reactant | 2-ethyl-4-(tetrahydro-2H-pyran-4-yloxy)cyclopentanecarboxylic acid | 0.767 mmol, 0.190 g | C(C)C1C(CC(C1)OC1CCOCC1)C(=O)O | C13H22O4
reactant | HATU | 0.920 mmol, 0.350 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 8.00 mL | C(Cl)Cl | CH2Cl2
product | 2-ethyl-4-(tetrahydro-2H-pyran-4-yloxy)-N′-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)cyclopentanecarbohydrazide | 0.300 g, 74% | C(C)C1C(CC(C1)OC1CCOCC1)C(=O)NNC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C26H33N5O5S
